US07618978B2
4-Benzyloxycarbonyl-1-(p-methoxybenzyl)-piperazin-2-one
Add to a solution of 4-benzyloxycarbonyl-piperazin-2-one (2 g, 8.6 mmol) in dry THF (10 mL/mmol) under nitrogen, sodium hydride (236 mg, 9.4 mmol, 60% dispersion in mineral oil) in one portion and stir at room temperature for 30 min. Add p-methoxybenzyl chloride (1.86 mL, 13 mmol) and stir at room temperature overnight. Concentrate, add ethyl acetate, wash with water, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 1:1 hexanes:ethyl acetate) to give the title compound as an oil (1.6 g, 54%).

reactant | 4-benzyloxycarbonyl-piperazin-2-one | 8.6 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | sodium hydride | 9.4 mmol, 236 mg | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 13 mmol, 1.86 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | THF | C1CCOC1 | C4H8O
product | 4-Benzyloxycarbonyl-1-(p-methoxybenzyl)-piperazin-2-one | 1.6 g, 54% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=C(C=C1)OC)=O | C20H22N2O4
